US08039469B2
Preparation of 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(piperazin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea
Crude tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate (approx 1.4 mmol) was taken up in dichloromethane (20 mL) and treated with trifluoroacetic acid (5 mL). The mixture was concentrated under reduced the pressure. To the residue was added diethyl ether to give the title compound as a solid di-TFA salt, which was collected by filtration and dried under house vacuum; MS (ES+) 488.1 (M+H)+.

reactant | tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperazine-1-carboxylate | approx 1.4 mmol | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C30H37N9O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(piperazin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)N2CCNCC2)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2 | C25H29N9O2
